US08981084B2
A mixture of 4-phenylthiazol-2(3H)-one (300 mg, 1.7 mmol) and POBr3 (4.85 g, 17.0 mmol) was heated to 100° C. in a sealed tube for 10 h. The reaction mixture was poured in ice water and the organic product was extracted with EtOAc. The combined extracts were washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude product was purified by column chromatography (silica 60-120 mesh, eluant 1% EtOAc in petroleum ether) to get 2-bromo-4-phenylthiazole (300 mg, yield 73%) as light brown colored liquid. 1H NMR (300 MHz, CDCl3) δ 7.88-7.85 (m, 2H), 7.46-7.35 (m, 4H). MS (ESI) m/z: Calculated for C9H6BrNS: 240.94. found: 242.0 (M+H)+

reactant | 4-phenylthiazol-2(3H)-one | 1.7 mmol, 300 mg | C1(=CC=CC=C1)C=1NC(SC1)=O | C9H7NOS
reactant | POBr3 | 17.0 mmol, 4.85 g | P(=O)(Br)(Br)Br | Br3OP
product | 2-bromo-4-phenylthiazole | 300 mg, yield 73% | BrC=1SC=C(N1)C1=CC=CC=C1 | C9H6BrNS
